US06358675B1
Preparation of 2,6,6-Trimethyl-5,5-bis(trimethylsilyl)-5,6-disilahept-2-yl Bicyclo[2.2.1]hept-5-ene-2-carboxylate (Norbornene Ester 1).
An oven-dried reaction flask equipped for magnetic stirring and fitted with a reflux condenser was flushed with nitrogen and charged with of bicyclo[2.2.1]hept-5-ene-2-carboxylic acid (55.3 g, 0.4 mol) and thionyl chloride (190.0 g, 1.6 mol). The mixture was heated at 50° C. for 2 hours. Excess thionyl chloride was evaporated under reduced pressure, of tetrahydrofuran (20 mL) was added to the concentrate, and volatiles were again separated under reduced pressure. To the amber concentrate, of tetrahydrofuran (200 mL), 2,6,6-Trimethyl-5,5-bis(trimethylsilyl)-5,6-disilaheptan-2-ol (33.5 g, 0.1 mol), and triethylamine (41.0 g, 0.4 mol) were added, and the reaction mixture was heated at 50° C. for 24 hours. The reaction mixture was poured into water (200 mL), the organic phase was separated, and the aqueous phase was extracted three 50 mL portions of diethyl ether. The combined organic phases were washed with one 50 mL portion of saturated aqueous sodium chloride and dried over magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure. The crude product was purified by column chromatography (90:10 hexanes:diethyl ether, Rf=0.47 and 0.58), affording the title compound (32.6 g, 72%) as a clear, colorless oil. The 1H, 13C, and 29Si NMR spectra of the product were consistent with the structure of the title compound as an approximately 55:45 mixture of the endo and exo isomers.

reactant | bicyclo[2.2.1]hept-5-ene-2-carboxylic acid | 0.4 mol, 55.3 g | C12C(CC(C=C1)C2)C(=O)O | C8H10O2
reactant | thionyl chloride | 1.6 mol, 190.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6,6-Trimethyl-5,5-bis(trimethylsilyl)-5,6-disilaheptan-2-ol | 0.1 mol, 33.5 g | CC(C)(CC[Si]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)O | C14H38OSi4
reactant | triethylamine | 0.4 mol, 41.0 g | C(C)N(CC)CC | C6H15N
solvent | water | 200 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2,6,6-Trimethyl-5,5-bis(trimethylsilyl)-5,6-disilahept-2-yl Bicyclo[2.2.1]hept-5-ene-2-carboxylate | 32.6 g, 72% | C12C(CC(C=C1)C2)C(=O)OC(C)(CC[Si]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)C | C22H46O2Si4
